US07700641B2
A. Synthesis of 1-(diphenylmethyl)-3-hydroxy-3-[2-hydroxy-4 (trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with 1-(diphenylmethyl)-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 3-(trifluoromethoxy)phenol, the title compound was obtained (75%): MS (ES+) m/z 514.5 (M+23).

reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | 1-(diphenylmethyl)-1H-indole-2,3-dione | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C21H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 3-(trifluoromethoxy)phenol | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
product | 1-(diphenylmethyl)-3-hydroxy-3-[2-hydroxy-4 (trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(C1=C(C=C(C=C1)OC(F)(F)F)O)O)=O)C1=CC=CC=C1 | C28H20F3NO4
